US08278331B2
5-Bromo-2-nitropyridine (1 g, 4.93 mmol) was dissolved in DMF (32 ml) and cooled to 0° C. Cesium carbonate (2.408 g, 7.39 mmol) was added, followed by 2-chloro-4-hydroxypyridine (0.702 g, 5.42 mmol). The mixture was stirred in an 80° C. oil bath for 24 hours. The reaction mixture was then cooled to RT, diluted with ethyl acetate (150 mL), washed with water (2×100 mL) and brine (50 mL), dried (MgSO4), evaporated under reduced pressure and purified via silica gel chromatography (ethyl acetate-hexanes) to yield 2-chloro-4-(6-nitropyridin-3-yloxy)pyridine as a clear oil (0.540 g, 44% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.62 (d, 1H), 8.41 (m, 2H), 8.06 (d, 1H), 7.37 (d, 1H), 7.23 (dd, 1H); MS (ESI) m/z: 252.0 (M+H+).

reactant | 5-Bromo-2-nitropyridine | 4.93 mmol, 1 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | Cesium carbonate | 7.39 mmol, 2.408 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-4-hydroxypyridine | 5.42 mmol, 0.702 g | ClC1=NC=CC(=C1)O | C5H4ClNO
solvent | DMF | 32 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-(6-nitropyridin-3-yloxy)pyridine | 0.540 g, 44% yield | ClC1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C10H6ClN3O3
